US05994368
To a suspension of 8-[3-(N-glycyl-N-methylamino)-2,6-dichlorobenzyloxy]-2-methylquinoline (100 mg) in tetrahydrofuran were added triethylamine (18.8 mg) and 4-methoxycarbonylphenyl chloroformate (39.8 mg) at 0° C. under nitrogen atmosphere, and the mixture was stirred for 1 hour at the same temperature. The solvent was removed, and ethyl acetate and water were added to the residue. The organic layer was dried over magnesium sulfate and concentrated. The residue was purified by preparative thin-layer chromatography (ethyl acetate:n-hexane=2:1, V/V) to give 8-[2,6-dichloro-3-[N-[(4-methoxycarbonylphenoxycarbonyl)glycyl]-N-methylamino]benzyloxy]-2-methylquinoline (30 mg) as an amorphous powder.

reactant | 8-[3-(N-glycyl-N-methylamino)-2,6-dichlorobenzyloxy]-2-methylquinoline | 100 mg | NCC(=O)N(C)C=1C(=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC1)Cl)Cl | C20H19Cl2N3O2
reactant | triethylamine | 18.8 mg | C(C)N(CC)CC | C6H15N
reactant | 4-methoxycarbonylphenyl chloroformate | 39.8 mg | ClC(=O)OC1=CC=C(C=C1)C(=O)OC | C9H7ClO4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-[2,6-dichloro-3-[N-[(4-methoxycarbonylphenoxycarbonyl)glycyl]-N-methylamino]benzyloxy]-2-methylquinoline | 30 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C)C(CNC(=O)OC1=CC=C(C=C1)C(=O)OC)=O)Cl | C29H25Cl2N3O6
